* C:\Users\jhbru\Documents\GitHub\eurorack\stereo_mix\simulation\panner.asc
V1 +12V 0 12
V2 -12V 0 -12
XU4 P001 N038 P002 N034 N025 +12V -12V NC_01 NC_02 HALF13700
R10 P002 N033 22
R11 N033 0 470
R12 P001 +12V 12k
V5 N037 0 SINE(0 5 100)
R13 N038 N037 21k
R14 0 N038 510
XU5 0 N025 +12V -12V N026 TL072
XU6 0 N042 +12V -12V N040 TL072
R15 N042 N028 6k8
R16 N026 P003 560
R17 P003 N025 15k
R18 N030 N034 7k2
Q2 N030 N040 N042 0 2N3906
D2 N040 N042 1N4148
XU1 P004 N013 P005 N010 N003 +12V -12V NC_03 NC_04 HALF13700
R1 P005 N009 22
R2 N009 0 470
R3 P004 +12V 12k
V3 N012 0 SINE(0 5 100)
R4 N013 N012 21k
R5 0 N013 510
XU2 0 N003 +12V -12V N004 TL072
XU3 0 N020 +12V -12V N016 TL072
R6 N020 N019 6k8
R7 N004 P006 560
R8 P006 N003 15k
R9 N006 N010 7k2
Q1 N006 N016 N020 0 2N3906
D1 N016 N020 1N4148
V4 N021 0 PULSE(5 -5 0 .25 .25 0 .5)
XU7 N022 N015 +12V -12V N019 TL072
R19 N022 N021 100k
R20 N022 5V 100k
R21 N015 N019 200k
R22 0 N015 200k
V6 5V 0 5V
XU8 N035 N027 +12V -12V N028 TL072
R23 N027 N021 100k
R24 N035 5V 100k
R25 N028 N027 100k
R26 N035 0 100k
XU9 P007 N036 P008 N032 N023 +12V -12V NC_05 NC_06 HALF13700
R27 P008 N031 22
R28 N031 0 470
R29 P007 +12V 12k
R30 N036 N026 21k
R31 0 N036 510
XU10 0 N023 +12V -12V N024 TL072
XU11 0 N041 +12V -12V N039 TL072
R32 N041 N017 6k8
R33 N024 P009 560
R34 P009 N023 17k
R35 N029 N032 7k2
Q3 N029 N039 N041 0 2N3906
D3 N039 N041 1N4148
C3 N024 N023 47p
XU12 P010 N011 P011 N008 N001 +12V -12V NC_07 NC_08 HALF13700
R36 P011 N007 22
R37 N007 0 470
R38 P010 +12V 12k
R39 N011 N004 21k
R40 0 N011 510
XU13 0 N001 +12V -12V N002 TL072
XU14 0 N018 +12V -12V N014 TL072
R41 N018 N017 6k8
R42 N002 P012 560
R43 P012 N001 17k
R44 N005 N008 7k2
Q4 N005 N014 N018 0 2N3906
D4 N014 N018 1N4148
C4 N002 N001 47p
V8 N017 0 SINE(5 5 20)
.model D D
.lib C:\Users\jhbru\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\jhbru\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 1
.include lm13700.sub
.lib TL072.sub
.backanno
.end
